US07011838B2
Using 0.50 g of (4-(trifluoromethyl)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 59 mg of sodium hydride (60% in oil), and 0.77 g of 2,2,3,3,4,4,4-heptafluorobutyl trifluoromethanesulfonate, and according to the process described in the Production Example 1, there was obtained 73 mg of 2-(2,2,3,3,4,4,4-heptafluorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (77)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 0.50 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 59 mg | [H-].[Na+]
reactant | 2,2,3,3,4,4,4-heptafluorobutyl trifluoromethanesulfonate | 0.77 g | FC(S(=O)(=O)OCC(C(C(F)(F)F)(F)F)(F)F)(F)F | C5H2F10O3S
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2,2,3,3,4,4,4-heptafluorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 73 mg, Yield: 8% | FC(CC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F)(C(C(F)(F)F)(F)F)F | C15H8F10N2
